US06664291B2
2-Cyclopentyl-1-[5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-phenyl]-ethane
To a solution of 2-cyclopentyl-1-[5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-phenyl]-ethanone (200 mg, 0.52 mmol) and trifluoroacetic acid (0.34 mL) in CH2Cl2 (0.5 mL) was added triethylsilane (212 mg, 1.83 mmol). After stirring at RT for 18 h, the reaction mixture was poured into water (15 mL) and extracted with EtOAc (20 mL). The EtOAc extract was washed with sat'd sodium bicarbonate (2×15 mL), brine (15 mL), dried and concentrated. The residue was purified by preparative TLC (CH2Cl2:Hexanes=2:3) to give the title compound of Step B (186 mg) as an oil. MS (APCl−) Calc.: 369.2, Found: 468.3 (M−1).

reactant | 2-cyclopentyl-1-[5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-phenyl]-ethanone | 0.52 mmol, 200 mg | C1(CCCC1)CC(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OC | C22H25NO5
reactant | trifluoroacetic acid | 0.34 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 1.83 mmol, 212 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | water | 15 mL | O | H2O
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-Cyclopentyl-1-[5-(2,6-dimethyl-4-nitro-phenoxy)-2-methoxy-phenyl]-ethane | 186 mg | C1(CCCC1)CCC1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OC | C22H27NO4
